US08058447B2
2-Amino-7-methyloct-2-en-4-one
3-Methyl-5-(3-methylbutyl)isoxazole (3.90 g, 25.5 mmol) [synthesis analogous to C. Kashima et al., Bull. Chem. Soc. Jpn. 46, 310-313 (1973)] is introduced into 80 ml of ethanol, platinum (IV) oxide catalyst (390 mg, 1.72 mmol) is added, and the mixture is then hydrogenated under atmospheric pressure hydrogen for 2 h (slightly exothermic reaction). The catalyst is filtered off, the filtrate is concentrated, and the residue is purified by chromatography on a Biotage 40M cartridge (mobile phase: isohexane/ethyl acetate 3:1). The product fractions are concentrated. The resulting residue is an oil, which crystallizes after a short time. Drying in vacuo results in 3.41 g (86% of theory) of the title compound.

reactant | 3-Methyl-5-(3-methylbutyl)isoxazole | 25.5 mmol, 3.90 g | CC1=NOC(=C1)CCC(C)C | C9H15NO
reactant | hydrogen | [H][H] | H2
catalyst | platinum (IV) oxide | 1.72 mmol, 390 mg | [Pt](=O)=O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-Amino-7-methyloct-2-en-4-one | NC(C)=CC(CCC(C)C)=O | C9H17NO
